US06174884B1
6-(3′-Amino-biphenyl-4-yl-methyl)-3-ethyl-1-(1-methyl-4-phenyl-butyl)-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
697 mg (4.5 mmol) of 3-aminophenylboronic acid monohydrate and 150 mg of tetrakistriphenylphosphine-palladium are added under argon to a solution of 1.66 g (3.47 mmol) of 6-(4-bromo-benzyl)-1-(1-methyl-4-phenyl-butyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one in 38 ml of THF, and the mixture is stirred for one hour at 70° C. After 4.9 ml of 1N Na2CO3 solution have been added, the mixture is stirred for a further 4 hours at 70° C., the solvent is removed in vacuo, and the residue is taken up in CH2Cl2. The mixture is extracted with 2N HCl, and the aqueous phase is rendered alkaline with 1N NaOH and extracted twice with CH2Cl2. After the extract has been dried over Na2SO4, the solvent is removed in vacuo. Purification by chromatography (toluene/ethyl acetate=4:1) gives 110 mg (6.4%) of a pale yellow solid.

reactant | 3-aminophenylboronic acid monohydrate | 4.5 mmol, 697 mg | O.NC=1C=C(C=CC1)B(O)O
reactant | 6-(4-bromo-benzyl)-1-(1-methyl-4-phenyl-butyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 3.47 mmol, 1.66 g | BrC1=CC=C(CC=2NC(C3=C(N2)N(N=C3CC)C(CCCC3=CC=CC=C3)C)=O)C=C1 | C25H27BrN4O
reactant | Na2CO3 | 1N, 4.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 38 ml | C1CCOC1 | C4H8O
catalyst | tetrakistriphenylphosphine-palladium | 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3′-Amino-biphenyl-4-yl-methyl)-3-ethyl-1-(1-methyl-4-phenyl-butyl)-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 110 mg, 6.4% | NC=1C=C(C=CC1)C1=CC=C(C=C1)CC=1NC(C2=C(N1)N(N=C2CC)C(CCCC2=CC=CC=C2)C)=O | C31H33N5O
